US06962926B2
1,3-Dimethyl-6-[2-(pyrrolidin-1-yl)ethyl]-1H-pyrazolo [3,4-b]pyridine-5-carbonitrile was dissolved in concentrated H2SO4 (55 mL) and the solution stirred at 60° C. for 2 days. The mixture was cooled to 0° C., treated with 6N NaOH to pH 14, and extracted with ethyl acetate. The organic extract was evaporated under reduced pressure and the residue washed with ether to give 1,3-dimethyl-6-[2-(pyrrolidin-1-yl)ethyl)-1H-pyrazolo [3,4-b]pyridine-5-carboxamide (2.5 g).

reactant | 1,3-Dimethyl-6-[2-(pyrrolidin-1-yl)ethyl]-1H-pyrazolo [3,4-b]pyridine-5-carbonitrile | CN1N=C(C=2C1=NC(=C(C2)C#N)CCN2CCCC2)C | C15H19N5
reactant | NaOH | 6N | [OH-].[Na+]
solvent | H2SO4 | 55 mL | OS(=O)(=O)O | H2O4S
product | 1,3-dimethyl-6-[2-(pyrrolidin-1-yl)ethyl)-1H-pyrazolo [3,4-b]pyridine-5-carboxamide | 2.5 g | CN1N=C(C=2C1=NC(=C(C2)C(=O)N)CCN2CCCC2)C | C15H21N5O
